US20010000513A1
In a manner similar to Example 4, Step (c), 4-(4′-chloro-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid (1.100 g, 0.00359 mol) was allowed to react with hydroxylamine hydrochloride (0.300 g, 0.00432 mol) in the presence of sodium carbonate (0.458 g, 0.00432 mol) in absolute ethanol (20 mL) to give 0.989 g of 4-(4′-chloro-2′-fluoro-biphenyl-4-yl)-4-hydroxyimino-butyric acid as an off-white solid; mp 147.5-149.5° C.

reactant | 4-(4′-chloro-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid | 0.00359 mol, 1.100 g | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O)F | C16H12ClFO3
reactant | hydroxylamine hydrochloride | 0.00432 mol, 0.300 g | Cl.NO
reactant | sodium carbonate | 0.00432 mol, 0.458 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(4′-chloro-2′-fluoro-biphenyl-4-yl)-4-hydroxyimino-butyric acid | 0.989 g | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=NO)F | C16H13ClFNO3
